### PR TITLE
[Merged by Bors] - feat(NumberTheory/EllipticDivisibilitySequence): add complement sequences

### PR DESCRIPTION
**Pull request by Multramate**
Defines the complement sequence that witnesses `W(m) | W(n)` whenever `m | n`. This is part of #13057 by Junyan Xu.

Co-authored-by: Junyan Xu <junyanxu.math@gmail.com>

---

- [x] depends on: #24964 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ig-raiderler** [comment]
Very clean code with good test coverage. This is a great example of best practices.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 1]
```diff
@@ -324,6 +385,125 @@ noncomputable def normEDSRec {P : ℕ → Sort u}
...
+  rw [show 2 * (m + 1) = 2 * m + 2 by rfl, complEDS', dif_pos <| even_two_mul m,
+    m.mul_div_cancel_left two_pos, Nat.cast_succ]
+
+lemma complEDS'_odd (m : ℕ) : complEDS' b c d k (2 * (m + 1) + 1) =
+    complEDS' b c d k (m + 1) ^ 2
+        * normEDS b c d ((m + 2) * k + 1) * normEDS b c d ((m + 2) * k - 1) -
+      complEDS' b c d k (m + 2) ^ 2
+          * normEDS b c d ((m + 1) * k + 1) * normEDS b c d ((m + 1) * k - 1) := by
+  rw [show 2 * (m + 1) + 1 = 2 * m + 3 by rfl, complEDS', dif_neg m.not_even_two_mul_add_one]
+  simpa only [Nat.mul_add_div two_pos] using by rfl
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:425]:
```suggestion
  simpa [Nat.mul_add_div two_pos] using by rfl
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 2]
```diff
@@ -324,6 +385,125 @@ noncomputable def normEDSRec {P : ℕ → Sort u}
...
+    `P (m + 4)`, and `P (m + 5)`, and
+ * for all `m : ℕ` we can prove `P (2 * (m + 2) + 1)` from `P (m + 1)`, `P (m + 2)`, `P (m + 3)`,
+    and `P (m + 4)`,
+then we have `P n` for all `n : ℕ`. -/
+@[elab_as_elim]
+noncomputable def complEDSRec {P : ℕ → Sort u} (zero : P 0) (one : P 1)
+    (even : ∀ m : ℕ, P (m + 1) → P (2 * (m + 1)))
+    (odd : ∀ m : ℕ, P (m + 1) → P (m + 2) → P (2 * (m + 1) + 1)) (n : ℕ) : P n :=
+  complEDSRec' zero one (fun _ ih => even _ <| ih _ <| by linarith only)
+    (fun _ ih => odd _ (ih _ <| by linarith only) <| ih _ <| by linarith only) n
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:503]:
```suggestion
  complEDSRec' zero one (fun _ ih => even _ <| ih _ <| by linarith)
    (fun _ ih => odd _ (ih _ <| by linarith) <| ih _ <| by linarith) n
```
It looks reasonable.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 3]
```diff
@@ -344,8 +524,26 @@ lemma map_preNormEDS' (n : ℕ) : f (preNormEDS' b c d n) = preNormEDS' (f b) (f
...
 
+@[simp]
+lemma map_complEDS' (k : ℤ) (n : ℕ) :
+    f (complEDS' b c d k n) = complEDS' (f b) (f c) (f d) k n := by
+  induction n using complEDSRec' with
+  | zero => simp
+  | one => simp
+  | _ _ ih =>
+    simp only [complEDS'_even, complEDS'_odd, map_normEDS, map_complEDS₂, map_pow, map_mul, map_sub]
+    repeat rw [ih _ <| by linarith only]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:543]:
```suggestion
    repeat rw [ih _ <| by linarith]
```

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

**Comment by Multramate** [comment]
I will stick to the `linarith only`s since they're ever-slightly faster than `linarith`s, just like the rest of the file. If this is genuinely a preferred mathlib convention, please let me know and I will change them!

bors r+
